US08809371B2
Potassium carbonate (139 mg) and 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (60 mg) were added to a tube containing a 1,4-dioxane (2 ml) solution containing (S)-tert-butyl(1-amino-4-methylpentan-2-yl)carbamate (76 mg) and the tube was sealed, followed by stirring with heating at 140° C. for 13.5 hours. The reaction solution was adjusted to room temperature and an insoluble precipitate was removed. Subsequently, the solvent was distilled away under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1), and a white solid of (S)-tert-butyl(1-((5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-yl)amino)-4-methylpentan-2-yl)carbamate (50 mg) was thus obtained.

reactant | Potassium carbonate | 139 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 60 mg | ClC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C15H8ClFN4
reactant | (S)-tert-butyl(1-amino-4-methylpentan-2-yl)carbamate | 76 mg | C(C)(C)(C)OC(N[C@H](CN)CC(C)C)=O | C11H24N2O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl(1-((5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-yl)amino)-4-methylpentan-2-yl)carbamate | 50 mg | C(C)(C)(C)OC(N[C@H](CNC1=NC(=C(C=C1F)C#N)NC=1C=C2C=CC=NC2=CC1)CC(C)C)=O | C26H31FN6O2
